US06346626B1
4 g 1-adamantoyl chloride are added to a solution of 1.5 g 2,5-dihydroxyacetophenone in dry pyridine. The mixture is stirred for 18 hours at 40°, poured into water and extracted with ethyl acetate. The combined organic layers are washed 3 times with 1 N aqueous hydrochloric acid and subsequently with aqueous sodium carbonate solution, dried over magnesium sulfate and concentrated in vacuo. The crude product is dissolved in dry dimethylformamide and added dropwise at 5° to a suspension of 330 mg of sodium hydride (80% in mineral oil) in dry dimethylformamide. The cooling bath is removed, and the mixture is stirred for 4 hours at room temperature. Then 1.5 ml of acetic acid and 250 ml of water are added, followed by extraction with ethyl acetate. The combined extracts are dried over magnesium sulfate and evaporated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 6/1) to remove starting materials and major by-products. Cyclisation of the resultant 1-[5-(1-adamantoyloxy)-2-hydroxyphenyl]-3-(1-adamantyl)-1,3-propandione is achieved by treatment with 20 ml of 32% aqueous hydrochloric acid in methanol/dioxane. 6-(1-adamantoyloxy)-2-(1-adamantyl)-4H-chromen-4-one is obtained:

reactant | 1-adamantoyl chloride | 4 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 2,5-dihydroxyacetophenone | 1.5 g | CC(=O)C1=C(C=CC(=C1)O)O | C8H8O3
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-(1-adamantoyloxy)-2-(1-adamantyl)-4H-chromen-4-one | C12(CC3CC(CC(C1)C3)C2)C(=O)OC=2C=C3C(C=C(OC3=CC2)C23CC1CC(CC(C2)C1)C3)=O | C30H34O4
